US08563717B2
6-Amino-2-(butyloxy)-9-[5-(1-ethyl-4-piperidinyl)pentyl]-7,9-dihydro-8H-purin-8-one
Prepared similarly to Example 14 from 2-(butyloxy)-8-(methyloxy)-9-[5-(4-piperidinyl)pentyl]-9H-purin-6-amine and iodoethane.

reactant | 2-(butyloxy)-8-(methyloxy)-9-[5-(4-piperidinyl)pentyl]-9H-purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CCCCCC1CCNCC1)OC)N | C20H34N6O2
reactant | iodoethane | ICC | C2H5I
product | 6-Amino-2-(butyloxy)-9-[5-(1-ethyl-4-piperidinyl)pentyl]-7,9-dihydro-8H-purin-8-one | NC1=C2NC(N(C2=NC(=N1)OCCCC)CCCCCC1CCN(CC1)CC)=O | C21H36N6O2
